US05814651
4-[4-Methoxy-3-(4-phenylbutyloxy)phenyl]benzoic Acid
To a solution of (2.9 g, 8.65 mmol, 1.0 eq) 1-methoxy-2-(4-phenyl-1-butoxy)-4-bromobenzene in 30 ml of dry THF at -78° C. was added (3.81 ml, 9.52 mmol, 1.1 eq) 2.5M n-BuLi. After stirring 15 minutes at -78° C. (10.4 ml, 10.4 mmol, 1.2 eq) 1.0M ZnCl2 in ether was added and the mixture allowed to warm to room temperature over 35 minutes. Tetrakis(triphenylphosphine)palladium(O) (500 mg, 0.43 mmol, 0.05 eq) and (2.27 g, 8.65 mmol, 1.0 eq) methyl-4-iodobenzoate were added to the reaction and the mixture allowed to stir at room temperature for 2.5 hours. The reaction mixture was concentrated in vacuo, costripped with CHCl3, and chromatographed on a silica gel column eluting with ethyl acetate-hexane (0-10%) to afford 2.61 g, 76%, of a yellow solid. Hydrolysis of the ester according to the method of Example 4 gave the title compound, M.P.: 178°-179° C. Elemental analysis calculated for C24H24O4 : C, 76.56; H, 6.43. Found: C, 76.06; H, 5.92.

reactant | 1-methoxy-2-(4-phenyl-1-butoxy)-4-bromobenzene | 8.65 mmol, 2.9 g, 1.0 eq | COC1=C(C=C(C=C1)Br)OCCCCC1=CC=CC=C1 | C17H19BrO2
reactant | n-BuLi | 9.52 mmol, 2.5M, 3.81 ml, 1.1 eq | [Li]CCCC
reactant | methyl-4-iodobenzoate | 8.65 mmol, 2.27 g, 1.0 eq | COC(C1=CC=C(C=C1)I)=O | C8H7IO2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
catalyst | ZnCl2 | 10.4 mmol, 1.0M, 10.4 ml, 1.2 eq | [Cl-].[Cl-].[Zn+2]
catalyst | Tetrakis(triphenylphosphine)palladium(O) | 0.43 mmol, 500 mg, 0.05 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 4-[4-Methoxy-3-(4-phenylbutyloxy)phenyl]benzoic Acid | COC1=C(C=C(C=C1)C1=CC=C(C(=O)O)C=C1)OCCCCC1=CC=CC=C1 | C24H24O4
